US08420816B2
tert-butyl 3-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate
3-((1-(tert-butoxycarbonyl)piperidin-3-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid was dissolved in DMF (5 mL). HATU (914 mg, 2.4 mmol) and DMAP (196 mg, 1.6 mmol) were added, and the reaction stirred at rt for 2 h. The solution was concentrated in vacuo and purified by preparative HPLC eluting with a gradient of 30% to 50% Solvent B in Solvent A to give 123 mg of the title compound as a light yellow solid. 1H NMR (400 MHz, CD3OD) δ 1.48 (s, 9 H) 1.59-1.70 (m, 1 H) 1.88 (d, J=13.39 Hz, 1 H) 1.95-2.02 (m, 1 H) 2.06 (dd, J=12.25, 3.92 Hz, 1 H) 2.75 (br. s., 1 H) 3.15 (t, J=11.62 Hz, 1 H) 4.04-4.20 (m, 2 H) 4.51 (br. s., 1 H) 4.93-5.14 (m, 2 H) 7.44 (s, 1 H) 7.58 (d, J=5.31 Hz, 1 H) 8.43 (d, J=5.56 Hz, 1 H). [M+H] found 357.

reactant | 3-((1-(tert-butoxycarbonyl)piperidin-3-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CCC1)NCC1=CNC=2N=CC=C(C21)C(=O)O | C19H26N4O4
reactant | HATU | 2.4 mmol, 914 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.6 mmol, 196 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 3-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate | 123 mg | O=C1N(CC=2C=3C(=NC=CC13)NC2)C2CN(CCC2)C(=O)OC(C)(C)C | C19H24N4O3
